US06951879B2
According to the method in example 4, 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole and morpholine were converted to yield 3-(4-Bromo-phenyl)-6-(3-morpholin-4-yl-propoxy)-benzo[d]isothiazole, MS: 434 (MH+, 1Br).

reactant | 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCBr | C16H13Br2NOS
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 3-(4-Bromo-phenyl)-6-(3-morpholin-4-yl-propoxy)-benzo[d]isothiazole | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCN2CCOCC2 | C20H21BrN2O2S
